US07544697B2
5-Ethyl-1-methyl-1H-pyrazole-3-carboxamide (3.8 g, 25 mmol) was treated with phosphorous oxychloride (18 mL, 0.19 mol) according to the method described in Part C of Example 8 to provide 2.68 g of 5-ethyl-1-methyl-1H-pyrazole-3-carbonitrile as a yellow oil.

reactant | 5-Ethyl-1-methyl-1H-pyrazole-3-carboxamide | 25 mmol, 3.8 g | C(C)C1=CC(=NN1C)C(=O)N | C7H11N3O
reactant | phosphorous oxychloride | 0.19 mol, 18 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-ethyl-1-methyl-1H-pyrazole-3-carbonitrile | 2.68 g | C(C)C1=CC(=NN1C)C#N | C7H9N3
